data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4528,5168,[C:11](#[N+:12][CH-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[N:12]=[C:11]2[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,15.45179100683102,-28.508514302247487
4581,5226,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[NH+:16]=[C:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:17]([CH3:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[NH:16][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,20.907541290765355,-26.253839676416
2590,2871,[CH3:18][O:19][C:20](=[O:21])[C:22](=[O+:23][C-:24]([CH3:25])[C:26](=[O:27])[O:28][CH3:29])[C:30](=[O:31])[O:32][CH3:33].[CH3:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]#[C:10][C:11]([Cl:12])([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]2=[C:10]([C:11]([Cl:12])([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:24]([CH3:25])([C:26](=[O:27])[O:28][CH3:29])[O:23][C:22]2([C:20]([O:19][CH3:18])=[O:21])[C:30](=[O:31])[O:32][CH3:33],water,298.15,14.296258320493116,-52.67891278980362
590,647,[CH3:13][C:14]#[N+:15][C-:16]([C:17]#[N:18])[C:19]#[N:20].[CH3:1][O:2][C:3](=[O:4])/[C:5]([Cl:6])=[C:7](\[Cl:8])[C:9](=[O:10])[O:11][CH3:12]>>[CH3:1][O:2][C:3](=[O:4])[C@@:5]1([Cl:6])[C@:7]([Cl:8])([C:9](=[O:10])[O:11][CH3:12])[C:16]([C:17]#[N:18])([C:19]#[N:20])[N:15]=[C:14]1[CH3:13],water,298.15,20.81801165177743,-20.76523796968952
1873,2077,[CH3:16][O:17][C:18](=[O:19])[C:20]([C:21]#[N:22])=[O+:23][C-:24]([C:25]#[N:26])[C:27]([CH3:28])=[O:29].[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]#[C:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]2=[C:10]([CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)[C:24]([C:25]#[N:26])([C:27]([CH3:28])=[O:29])[O:23][C:20]2([C:18]([O:17][CH3:16])=[O:19])[C:21]#[N:22],water,298.15,9.27825138199224,-64.28911412046095
4732,5405,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19]([C:20](=[O:21])[O:22][CH3:23])[n+:24]1[CH3:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:19]1([C:20](=[O:21])[O:22][CH3:23])[C:17](=[O:18])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[N:24]1[CH3:25],water,298.15,38.7589801867531,16.822517283326853
2784,3094,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]#[C:8][C:9]([C:10](=[O:11])[O:12][CH3:13])([C:14](=[O:15])[O:16][CH3:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][NH:23][C:24](=[O:25])[C:26]([CH3:27])=[NH+:28][C-:29]([C:30](=[O:31])[O:32][CH3:33])[C:34](=[O:35])[O:36][CH3:37]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]2=[C:8]([C:9]([C:10](=[O:11])[O:12][CH3:13])([C:14](=[O:15])[O:16][CH3:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:29]([C:30](=[O:31])[O:32][CH3:33])([C:34](=[O:35])[O:36][CH3:37])[NH:28][C:26]2([C:24]([NH:23][CH3:22])=[O:25])[CH3:27],water,298.15,20.465114834438324,-25.75791649578725
2018,2241,[CH3:13][NH:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][C:2]1([F:3])[C:4]#[C:5][C:6]([Cl:7])([Cl:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2]1([F:3])[C:4]2=[C:5]([C:6]([Cl:7])([Cl:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:17]([C:15]([NH:14][CH3:13])=[O:16])=[N:18][C:19]2([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,7.298556080983947,-62.45736054245226
286,310,[CH3:9][C:10](=[O:11])[C:12]#[N+:13][CH-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[CH:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[N:13]=[C:12]3[C:10]([CH3:9])=[O:11],water,298.15,13.158069042198749,-59.055406690643714
4578,5223,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[NH+:16]=[C:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:17]([CH3:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[NH:16][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,29.44876919312537,-22.25022932258996
3936,4501,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C:7]([c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)=[N+:14]([CH3:15])[C-:16]([C:17]#[N:18])[C:19]([CH3:20])=[O:21]>>[CH2:1]1[CH2:2][C:16]([C:17]#[N:18])([C:19]([CH3:20])=[O:21])[N:14]([CH3:15])[C:7]1([C:5]([NH:4][CH3:3])=[O:6])[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1,water,298.15,27.220097999966185,-23.91514641895859
